US09169242B2
Step 1: 3-Bromo-N-(1-hydroxy-2-methylpropan-2-yl)-4-methylbenzamide:
To a stirred 0° C. cooled solution of 3-bromo-4-methylbenzoyl chloride (prepared from the corresponding carboxylic acid; 1.40 g, 6.04 mmol, 1.0 eq) in DCM (10 mL), was added a solution of 2-amino-2-methylpropanol (1.44 mL, 15.11 mmol, 2.5 eq) in DCM (10 mL) drop wise for 15 min and then warmed to room temperature. After stirring for 24 h at room temperature, the reaction mixture was diluted with DCM (50 mL) and the organic layer was washed with water (20 mL) followed by brine (20 mL), dried (Na2SO4) and filtered. The filtrate was concentrated under vacuum to afford the 1.7 g of the desired product as a white solid. 1HNMR (400 MHz, DMSO-d6) δ 8.00 (d, J=1.0 Hz, 1H), 7.70 (dd, J=1.0, 8.0 Hz, 1H), 7.62 (s, 1H, D2O exchangeable), 7.40 (d, J=8.0 Hz, 1H), 4.85 (t, J=6.0 Hz, 1H, D2O exchangeable), 3.49 (d, J=6.0 Hz, 2H), 2.37 (s, 3H), 1.28 (s, 6H); ESI-MS (m/z) 286, 288 [(MH)+, Br79,81].

reactant | 3-bromo-4-methylbenzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1C | C8H6BrClO
reactant | 2-amino-2-methylpropanol | 15.11 mmol, 1.44 mL, 2.5 eq | NC(CO)(C)C | C4H11NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-N-(1-hydroxy-2-methylpropan-2-yl)-4-methylbenzamide | 1.7 g | BrC=1C=C(C(=O)NC(CO)(C)C)C=CC1C | C12H16BrNO2
